US07037908B2
N-(3,4-dichlorobenzyl)-2-(2-dimethylsulfamoylphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2-dimethylsulfamoyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (0.076 g, 0.2 mmol) and 3,4-dichlorobenzylamine (0.13 mL, 1.0 mmol). The title product was obtained as white needles (0.0569 g, 56% yield). 1HNMR (500 MHz, CDCl3) δ: 11.93 (1H, s), 7.91 (1H, dd, J=7.32 Hz), 7.74 (1H, t, J=5.80 Hz), 7.72–7.67 (2H, m), 7.38 (2H), d, J=7.93 Hz), 7.32 (1H, d, J=1.83Hz), 7.11 (1H, dd, J=8.24, 1.83 Hz), 4.60 (1H, dd, J=15.26, 7.02 Hz), 4.41 (1H, dd, J=15.26, 5.80 Hz), 3.24 (3H, s), 2.69 (6H, s). HRMS (ESI) calcd for C21H21SCl2N4O5 (M+H): 511.0610; found: 511.0612.

reactant | 2-(2-dimethylsulfamoyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.2 mmol, 0.076 g | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1)S(N(C)C)(=O)=O | C16H19N3O6S
reactant | 3,4-dichlorobenzylamine | 1.0 mmol, 0.13 mL | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | N-(3,4-dichlorobenzyl)-2-(2-dimethylsulfamoylphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | ClC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2)S(N(C)C)(=O)=O)C=CC1Cl | C21H20Cl2N4O5S
